*aqfp_single

*excitation cirquit
Lx1 inx mid 10p
Lx2 mid 0  10p
*Rin in 0 1G
*Ix inx 0 PWL(0p 0mA  500p 1.5mA  1500p 1.5mA  2000p 0mA)
*Ix inx 0 sin(2mA 1.5mA 5G 0 0)
I_left 1 0 sin(0 1.5mA 5G 0 0)
I_right 3 0 sin(0 1.5mA 5G 0 180)

*main cirquit
L01 2 1 1.31p 
L02 2 3 1.31p 
*K1 L01 Lx1 0.3
*K2 L02 Lx2 0.3
L0q 2 0 10.5p
B01 1 0 jmitll area=50
B02 3 0 jmitll area=50
R01 1 0 0.9
R02 3 0 0.9
Iin 2 0 DC 0.01uA 

.model jmitll jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=60, rN=1.37, icrit=1uA)
.tran 0.25p 2000p 0 0.25p
.print PHASE B01 
.print PHASE B02
.print DEVI Ix
.print DEVI  L0q

.end
